US09428528B2
Step 1 Preparation of tert-butyl ((5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiazol-2-yl)methyl)carbamate
Following the general procedure of Example 2—Step 1 and making non-critical variations but using 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethyl-stannyl)phenyl)propan-2-yl)acetamide and tert-butyl ((5-bromothiazol-2-yl)methyl)carbamate as starting materials title compound is obtained (346 mg): 1HNMR (400 MHz, DMSO-d6) 1.41 (s, 9H), 4.19-4.22 (m, 1H), 4.26-4.30 (m, 0.5H), 4.36-4.42 (m, 2.5H), 4.54-4.58 (m, 0.5H), 4.66-4.70 (m, 0.5H), 4.86 (t, J=3.4 Hz, 1H), 5.98 (d, J=4.16 Hz, 1H), 6.50 (s, 1H), 7.39 (d, J=8.2 Hz, 2H), 7.60 (d, J=8.0 Hz, 2H), 7.77-7.82 (m, 1H), 8.05 (s, 1H), 8.60 (d, J=8.8 Hz, 1H) m/z (CI) 492 [M+H].

reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethyl-stannyl)phenyl)propan-2-yl)acetamide | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
reactant | tert-butyl ((5-bromothiazol-2-yl)methyl)carbamate | BrC1=CN=C(S1)CNC(OC(C)(C)C)=O | C9H13BrN2O2S
product | tert-butyl ((5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiazol-2-yl)methyl)carbamate | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C1=CN=C(S1)CNC(OC(C)(C)C)=O)CF)Cl | C20H24Cl2FN3O4S
